US08431596B2
3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenol (XX-256)
{5-[3-(4-Methoxy-phenoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (2.90 g, 5.41 mmol) was dissolved in dichloromethane (10 ml). Trifluoroacetic acid (10 ml) was added and the reaction mixture stirred for 2 hours. Neutralisation was performed by adding saturated aqueous sodium hydrogencarbonate. The aqueous was extracted twice with dichloromethane, then the combined organics were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give the desired compound. Yield 2.01 g, 89%. 50 mg was purified by preparatory HPLC.

reactant | {5-[3-(4-Methoxy-phenoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 5.41 mmol, 2.90 g | COC1=CC=C(OC=2C=C(C=CC2)C2=CC=CC=3N2N=C(N3)NC3=CC=C(C=C3)OCCN3CCCC3)C=C1 | C31H31N5O3
reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenol | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(C=CC2)O)=N1 | C24H25N5O2
